* File: BUFD4.cdl.pex
* Created: Sat Dec 27 13:04:25 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD4%net3 21 25 39 53 55 62 65 72 73 75 82 85 92 93 95 102 105 112
+ 113 115 122 125 132 134 136 138 148 149 150 151 152 153 154 155 156 157 158
+ 159 160
r84 169 172 0.0984
r85 166 169 0.0984
r86 162 166 0.0984
r87 131 132 0.62445
r88 131 155 0.62445
r89 125 132 0.624484
r90 124 139 0.231882
r91 123 125 0.252919
r92 123 124 0.53136
r93 121 122 0.62445
r94 121 154 0.62445
r95 115 139 0.0151417
r96 115 122 0.624484
r97 114 138 0.231882
r98 113 139 0.231882
r99 113 114 0.53136
r100 111 112 0.62445
r101 111 153 0.62445
r102 105 138 0.0151417
r103 105 112 0.624484
r104 104 137 0.231882
r105 103 138 0.231882
r106 103 104 0.53136
r107 101 102 0.62445
r108 101 152 0.62445
r109 95 137 0.0151417
r110 95 102 0.624484
r111 94 136 0.231882
r112 93 137 0.231882
r113 93 94 0.53136
r114 91 92 0.62445
r115 91 151 0.62445
r116 85 136 0.0151417
r117 85 92 0.624484
r118 84 135 0.231882
r119 83 136 0.231882
r120 83 84 0.53136
r121 81 82 0.62445
r122 81 150 0.62445
r123 75 135 0.0151417
r124 75 82 0.624484
r125 74 134 0.231882
r126 73 135 0.231882
r127 73 74 0.53136
r128 71 72 0.62445
r129 71 149 0.62445
r130 65 134 0.0151417
r131 65 72 0.624484
r132 64 133 0.231882
r133 63 134 0.231882
r134 63 64 0.53136
r135 61 62 0.62445
r136 61 148 0.62445
r137 55 133 0.0151417
r138 55 62 0.624484
r139 53 133 0.231882
r140 53 54 0.92988
r141 51 172 1
r142 49 169 1
r143 49 51 0.2952
r144 47 166 1
r145 47 49 0.2952
r146 44 45 0.9594
r147 43 162 1
r148 43 47 0.2952
r149 43 45 0.9594
r150 41 54 0.260498
r151 41 44 0.9594
r152 39 40 1.11471
r153 39 160 13.8645
r154 36 39 2.97255
r155 36 159 10.4292
r156 35 36 3.71569
r157 35 158 10.4292
r158 33 35 6.68823
r159 33 157 15.5532
r160 31 33 0.743137
r161 29 31 0.743137
r162 29 156 10.4292
r163 25 172 1
r164 25 160 7.17942
r165 23 169 1
r166 23 25 5.2214
r167 21 166 1
r168 21 23 5.2214
r169 19 162 1
r170 19 40 8.86663
r171 19 21 5.2214
r172 13 36 10.4292
r173 13 159 13.0535
r174 9 35 10.4292
r175 9 158 29.3704
r176 5 31 10.4292
r177 5 157 29.3704
r178 1 29 10.4292
r179 1 156 13.0535
.ends

.subckt PM_BUFD4%VSS 1 316 317 318 319 320 321 322 323 324 325 326 327 328 329
+ 330 331 332 333 334 335 336 337
r64 360 363 0.126514
r65 357 360 0.126514
r66 353 357 0.126514
r67 346 349 0.126514
r68 343 346 0.126514
r69 339 343 0.126514
r70 301 363 1
r71 299 360 1
r72 299 301 0.2952
r73 297 357 1
r74 297 299 0.2952
r75 294 353 1
r76 294 297 0.2952
r77 292 301 0.2214
r78 291 307 0.397738
r79 290 292 0.260498
r80 290 291 0.8856
r81 286 307 0.0706443
r82 286 323 0.474429
r83 285 306 0.397738
r84 284 307 0.397738
r85 284 285 0.53136
r86 280 306 0.0706443
r87 280 322 0.474429
r88 279 305 0.397738
r89 278 306 0.397738
r90 278 279 0.53136
r91 274 305 0.0706443
r92 274 321 0.474429
r93 272 305 0.397738
r94 272 273 0.53136
r95 268 273 0.327655
r96 268 320 0.474429
r97 267 349 1
r98 265 346 1
r99 265 267 0.2952
r100 263 343 1
r101 263 265 0.2952
r102 260 339 1
r103 260 263 0.2952
r104 258 267 0.2214
r105 257 304 0.397738
r106 256 258 0.260498
r107 256 257 0.8856
r108 252 304 0.0706443
r109 252 319 0.474429
r110 251 303 0.397738
r111 250 304 0.397738
r112 250 251 0.53136
r113 246 303 0.0706443
r114 246 318 0.474429
r115 245 302 0.397738
r116 244 303 0.397738
r117 244 245 0.53136
r118 240 302 0.0706443
r119 240 317 0.474429
r120 238 302 0.397738
r121 238 239 0.53136
r122 234 239 0.327655
r123 234 316 0.474429
r124 186 337 13.5974
r125 185 186 13.5974
r126 182 233 2.30802
r127 182 185 13.5974
r128 178 337 3.26338
r129 178 337 29.3704
r130 177 230 4.57327
r131 176 233 4.57327
r132 176 177 33.0689
r133 175 336 13.5974
r134 174 175 13.5974
r135 171 230 2.30802
r136 171 174 13.5974
r137 167 336 3.26338
r138 167 336 29.3704
r139 166 227 4.57327
r140 165 230 4.57327
r141 165 166 33.0689
r142 164 335 13.5974
r143 163 164 13.5974
r144 160 227 2.30802
r145 160 163 13.5974
r146 156 335 3.26338
r147 156 335 29.3704
r148 155 224 4.57327
r149 154 227 4.57327
r150 154 155 33.0689
r151 153 334 13.5974
r152 152 153 13.5974
r153 149 224 2.30802
r154 149 152 13.5974
r155 145 334 3.26338
r156 145 334 29.3704
r157 143 144 15.954
r158 142 221 5.52744
r159 142 143 15.954
r160 141 224 4.57327
r161 141 144 15.9549
r162 139 363 1
r163 139 333 15.0708
r164 137 360 1
r165 137 139 8.70233
r166 135 357 1
r167 135 137 8.70233
r168 132 133 23.9314
r169 131 353 1
r170 131 135 8.70233
r171 131 133 23.9314
r172 127 221 1.43649
r173 127 132 23.9314
r174 123 333 3.26338
r175 123 333 13.9123
r176 121 122 19.7251
r177 120 217 4.57327
r178 120 121 19.7251
r179 119 221 5.52744
r180 119 122 19.7256
r181 118 332 24.4753
r182 117 118 24.4753
r183 114 217 2.30802
r184 114 117 24.4753
r185 110 332 3.26338
r186 110 332 13.0535
r187 108 109 19.7251
r188 107 211 5.52744
r189 107 108 19.7251
r190 106 217 4.57327
r191 106 109 19.7256
r192 102 331 3.26338
r193 102 331 13.9123
r194 101 331 27.9718
r195 100 101 27.9718
r196 96 211 1.43649
r197 96 100 27.9718
r198 94 95 17.1144
r199 93 210 4.57327
r200 93 94 17.1144
r201 92 211 5.52744
r202 92 95 17.1149
r203 91 330 13.5974
r204 90 91 13.5974
r205 87 210 2.30802
r206 87 90 13.5974
r207 83 330 3.26338
r208 83 330 29.3704
r209 82 207 4.57327
r210 81 210 4.57327
r211 81 82 33.0689
r212 80 329 13.5974
r213 79 80 13.5974
r214 76 207 2.30802
r215 76 79 13.5974
r216 72 329 3.26338
r217 72 329 29.3704
r218 71 204 4.57327
r219 70 207 4.57327
r220 70 71 33.0689
r221 69 328 13.5974
r222 68 69 13.5974
r223 65 204 2.30802
r224 65 68 13.5974
r225 61 328 3.26338
r226 61 328 29.3704
r227 60 201 4.57327
r228 59 204 4.57327
r229 59 60 33.0689
r230 58 327 13.5974
r231 57 58 13.5974
r232 54 201 2.30802
r233 54 57 13.5974
r234 50 327 3.26338
r235 50 327 29.3704
r236 48 198 5.52744
r237 47 201 4.57327
r238 45 349 1
r239 45 326 15.0708
r240 43 346 1
r241 43 45 8.70233
r242 41 343 1
r243 41 43 8.70233
r244 38 39 23.9314
r245 37 339 1
r246 37 41 8.70233
r247 37 39 23.9314
r248 33 198 1.43649
r249 33 38 23.9314
r250 29 326 3.26338
r251 29 326 13.9123
r252 27 28 19.7251
r253 26 194 4.57327
r254 26 27 19.7251
r255 25 198 5.52744
r256 25 28 19.7256
r257 24 325 24.4753
r258 23 24 24.4753
r259 20 194 2.30802
r260 20 23 24.4753
r261 16 325 3.26338
r262 16 325 13.0535
r263 14 15 19.7251
r264 13 14 19.7251
r265 12 194 4.57327
r266 12 15 19.7256
r267 8 324 3.26338
r268 8 324 13.9123
r269 7 324 27.9718
r270 6 7 27.9718
r271 2 13 7.29337
r272 2 6 27.9718
r273 1 47 21.7993
r274 1 48 26.0635
.ends

.subckt PM_BUFD4%net1 6 17 28 39 54 110 117 118 120 127 130 137 138 140 147 152
+ 159 160 162 169 172 179 180 182 189 192 199 200 202 209 212 219 220 222 229
+ 253 254 255 256 257 258 259 260 261 262 263 264 265 266 267 268 269 270 271
+ 272 273 274
r158 289 291 0.17712
r159 287 289 0.17712
r160 285 287 0.17712
r161 283 294 0.122469
r162 283 285 0.50922
r163 280 282 0.180735
r164 277 280 0.180735
r165 275 294 0.124969
r166 275 282 0.0316286
r167 272 274 6.84477
r168 228 229 0.62445
r169 228 264 0.62445
r170 222 229 0.624484
r171 221 240 0.231882
r172 220 222 0.252919
r173 220 221 0.53136
r174 218 219 0.62445
r175 218 263 0.62445
r176 212 240 0.0151417
r177 212 219 0.624484
r178 211 239 0.231882
r179 210 240 0.231882
r180 210 211 0.53136
r181 208 209 0.62445
r182 208 262 0.62445
r183 202 239 0.0151417
r184 202 209 0.624484
r185 201 238 0.231882
r186 200 239 0.231882
r187 200 201 0.53136
r188 198 199 0.62445
r189 198 261 0.62445
r190 192 238 0.0151417
r191 192 199 0.624484
r192 191 237 0.231882
r193 190 238 0.231882
r194 190 191 0.53136
r195 188 189 0.62445
r196 188 260 0.62445
r197 182 237 0.0151417
r198 182 189 0.624484
r199 181 236 0.231882
r200 180 237 0.231882
r201 180 181 0.53136
r202 178 179 0.62445
r203 178 259 0.62445
r204 172 236 0.0151417
r205 172 179 0.624484
r206 171 235 0.231882
r207 170 236 0.231882
r208 170 171 0.53136
r209 168 169 0.62445
r210 168 258 0.62445
r211 162 235 0.0151417
r212 162 169 0.624484
r213 161 234 0.231882
r214 160 235 0.231882
r215 160 161 0.53136
r216 158 159 0.62445
r217 158 257 0.62445
r218 152 234 0.0151417
r219 152 159 0.624484
r220 150 151 1.06272
r221 149 233 0.231882
r222 149 150 1.06272
r223 148 234 0.231882
r224 148 151 1.06272
r225 146 147 0.62445
r226 146 256 0.62445
r227 140 233 0.0151417
r228 140 147 0.624484
r229 139 232 0.231882
r230 138 233 0.231882
r231 138 139 0.53136
r232 136 137 0.62445
r233 136 255 0.62445
r234 130 232 0.0151417
r235 130 137 0.624484
r236 129 231 0.231882
r237 128 232 0.231882
r238 128 129 0.53136
r239 126 127 0.62445
r240 126 254 0.62445
r241 120 231 0.0151417
r242 120 127 0.624484
r243 119 230 0.231882
r244 118 231 0.231882
r245 118 119 0.53136
r246 116 117 0.62445
r247 116 253 0.62445
r248 110 230 0.0151417
r249 110 117 0.624484
r250 108 230 0.231882
r251 108 109 1.19556
r252 106 107 0.368994
r253 105 291 1
r254 105 106 0.368994
r255 103 289 1
r256 103 105 0.17712
r257 101 287 1
r258 101 103 0.17712
r259 98 285 1
r260 98 101 0.17712
r261 96 109 0.311719
r262 96 107 0.369012
r263 94 95 0.76053
r264 94 274 0.76053
r265 89 272 0.76053
r266 89 270 6.84477
r267 86 270 0.76053
r268 86 268 6.84477
r269 83 268 0.76053
r270 83 266 6.08424
r271 80 266 0.76053
r272 79 80 0.76053
r273 78 273 6.52456
r274 66 265 6.52456
r275 62 294 1
r276 60 282 1
r277 60 62 5.32796
r278 58 280 1
r279 58 60 5.32796
r280 56 277 1
r281 56 58 5.32796
r282 54 95 8.19527
r283 54 56 8.65793
r284 53 95 15.3767
r285 53 78 19.5802
r286 48 94 10.265
r287 48 274 29.3704
r288 44 273 3.26338
r289 44 273 29.3704
r290 40 272 10.265
r291 40 272 29.3704
r292 39 89 15.3767
r293 39 271 11.4207
r294 33 271 3.26338
r295 33 271 29.3704
r296 29 270 10.265
r297 29 270 29.3704
r298 28 86 15.3767
r299 28 269 11.4207
r300 22 269 3.26338
r301 22 269 29.3704
r302 18 268 10.265
r303 18 268 29.3704
r304 17 83 15.3767
r305 17 267 11.4207
r306 11 267 3.26338
r307 11 267 29.3704
r308 7 80 10.265
r309 7 266 29.3704
r310 6 79 15.3767
r311 6 66 19.5802
r312 1 265 3.26338
r313 1 265 29.3704
.ends

.subckt PM_BUFD4%net2 21 25 39 53 55 62 65 72 73 75 82 85 92 93 95 102 105 112
+ 113 115 122 125 132 134 136 138 148 149 150 151 152 153 154 155 156 157 158
+ 159 160
r84 169 172 0.0984
r85 166 169 0.0984
r86 162 166 0.0984
r87 131 132 0.62445
r88 131 155 0.62445
r89 125 132 0.624484
r90 124 139 0.231882
r91 123 125 0.252919
r92 123 124 0.53136
r93 121 122 0.62445
r94 121 154 0.62445
r95 115 139 0.0151417
r96 115 122 0.624484
r97 114 138 0.231882
r98 113 139 0.231882
r99 113 114 0.53136
r100 111 112 0.62445
r101 111 153 0.62445
r102 105 138 0.0151417
r103 105 112 0.624484
r104 104 137 0.231882
r105 103 138 0.231882
r106 103 104 0.53136
r107 101 102 0.62445
r108 101 152 0.62445
r109 95 137 0.0151417
r110 95 102 0.624484
r111 94 136 0.231882
r112 93 137 0.231882
r113 93 94 0.53136
r114 91 92 0.62445
r115 91 151 0.62445
r116 85 136 0.0151417
r117 85 92 0.624484
r118 84 135 0.231882
r119 83 136 0.231882
r120 83 84 0.53136
r121 81 82 0.62445
r122 81 150 0.62445
r123 75 135 0.0151417
r124 75 82 0.624484
r125 74 134 0.231882
r126 73 135 0.231882
r127 73 74 0.53136
r128 71 72 0.62445
r129 71 149 0.62445
r130 65 134 0.0151417
r131 65 72 0.624484
r132 64 133 0.231882
r133 63 134 0.231882
r134 63 64 0.53136
r135 61 62 0.62445
r136 61 148 0.62445
r137 55 133 0.0151417
r138 55 62 0.624484
r139 53 133 0.231882
r140 53 54 0.92988
r141 51 172 1
r142 49 169 1
r143 49 51 0.2952
r144 47 166 1
r145 47 49 0.2952
r146 44 45 0.9594
r147 43 162 1
r148 43 47 0.2952
r149 43 45 0.9594
r150 41 54 0.260498
r151 41 44 0.9594
r152 39 40 1.11471
r153 39 160 13.8645
r154 36 39 2.97255
r155 36 159 10.4292
r156 35 36 3.71569
r157 35 158 10.4292
r158 33 35 6.68823
r159 33 157 15.5532
r160 31 33 0.743137
r161 29 31 0.743137
r162 29 156 10.4292
r163 25 172 1
r164 25 160 7.17942
r165 23 169 1
r166 23 25 5.2214
r167 21 166 1
r168 21 23 5.2214
r169 19 162 1
r170 19 40 8.86663
r171 19 21 5.2214
r172 13 36 10.4292
r173 13 159 13.0535
r174 9 35 10.4292
r175 9 158 29.3704
r176 5 31 10.4292
r177 5 157 29.3704
r178 1 29 10.4292
r179 1 156 13.0535
.ends

.subckt PM_BUFD4%VDD 1 12 21 33 42 51 60 71 80 91 100 109 118 157 158 159 160
+ 161 162 163 164 165 166 167 168
r84 118 156 2.30802
r85 118 168 26.1059
r86 112 168 3.26338
r87 112 168 29.3704
r88 111 153 4.57327
r89 110 156 4.57327
r90 110 111 33.0689
r91 109 153 2.30802
r92 109 167 26.1059
r93 103 167 3.26338
r94 103 167 29.3704
r95 102 150 4.57327
r96 101 153 4.57327
r97 101 102 33.0689
r98 100 150 2.30802
r99 100 166 26.1059
r100 94 166 3.26338
r101 94 166 29.3704
r102 93 147 4.57327
r103 92 150 4.57327
r104 92 93 33.0689
r105 91 147 2.30802
r106 91 165 26.1059
r107 85 165 3.26338
r108 85 165 29.3704
r109 83 84 28.4275
r110 82 144 4.57327
r111 82 83 28.4275
r112 81 147 4.57327
r113 81 84 28.4279
r114 80 144 2.30802
r115 80 164 26.1059
r116 74 164 3.26338
r117 74 164 29.3704
r118 73 141 4.57327
r119 72 144 4.57327
r120 72 73 33.0689
r121 71 141 2.30802
r122 71 163 26.1059
r123 65 163 3.26338
r124 65 163 29.3704
r125 63 64 38.2903
r126 62 138 4.57327
r127 62 63 38.2903
r128 61 141 4.57327
r129 61 64 38.2903
r130 60 138 2.30802
r131 60 162 26.1059
r132 54 162 3.26338
r133 54 162 29.3704
r134 53 135 4.57327
r135 52 138 4.57327
r136 52 53 33.0689
r137 51 135 2.30802
r138 51 161 26.1059
r139 45 161 3.26338
r140 45 161 29.3704
r141 44 132 4.57327
r142 43 135 4.57327
r143 43 44 33.0689
r144 42 132 2.30802
r145 42 160 26.1059
r146 36 160 3.26338
r147 36 160 29.3704
r148 35 129 4.57327
r149 34 132 4.57327
r150 34 35 33.0689
r151 33 129 2.30802
r152 33 159 26.1059
r153 27 159 3.26338
r154 27 159 29.3704
r155 25 26 22.2488
r156 23 126 4.57327
r157 23 25 22.2488
r158 22 129 4.57327
r159 21 126 2.30802
r160 21 158 26.1059
r161 15 158 3.26338
r162 15 158 29.3704
r163 14 123 4.57327
r164 13 126 4.57327
r165 13 14 33.0689
r166 12 123 2.30802
r167 12 157 26.1059
r168 6 157 3.26338
r169 6 157 29.3704
r170 1 22 18.536
r171 1 26 22.2493
.ends

.subckt PM_BUFD4%OUT 1 7 18 29 40 86 88 89 90 91 92 93 94 95 96 97
r66 86 87 0.76053
r67 86 97 0.76053
r68 80 95 0.76053
r69 80 93 6.84477
r70 77 93 0.76053
r71 77 91 6.84477
r72 74 91 0.76053
r73 74 89 6.08424
r74 71 89 0.76053
r75 70 71 0.76053
r76 69 96 6.52456
r77 57 88 6.52456
r78 54 87 15.3767
r79 54 69 19.5802
r80 49 86 10.265
r81 49 97 29.3704
r82 45 96 3.26338
r83 45 96 29.3704
r84 41 95 10.265
r85 41 95 29.3704
r86 40 80 15.3767
r87 40 94 11.4207
r88 34 94 3.26338
r89 34 94 29.3704
r90 30 93 10.265
r91 30 93 29.3704
r92 29 77 15.3767
r93 29 92 11.4207
r94 23 92 3.26338
r95 23 92 29.3704
r96 19 91 10.265
r97 19 91 29.3704
r98 18 74 15.3767
r99 18 90 11.4207
r100 12 90 3.26338
r101 12 90 29.3704
r102 8 71 10.265
r103 8 89 29.3704
r104 7 70 15.3767
r105 7 57 19.5802
r106 2 88 3.26338
r107 2 88 29.3704
r108 1 97 5.40736
r109 1 95 1.4374
.ends

.subckt PM_BUFD4%IN 15 22 23 25 32 35 42 43 45 52 57 64 65 67 74 77 84 85 87 94
+ 97 104 105 107 114 117 124 125 127 134 158 159 160 161 162 163 164 165 166 167
+ 168 169 170
r92 178 180 0.17712
r93 176 178 0.17712
r94 170 176 0.008856
r95 170 172 0.168264
r96 133 134 0.62445
r97 133 169 0.62445
r98 127 134 0.624484
r99 126 145 0.231882
r100 125 127 0.252919
r101 125 126 0.53136
r102 123 124 0.62445
r103 123 168 0.62445
r104 117 145 0.0151417
r105 117 124 0.624484
r106 116 144 0.231882
r107 115 145 0.231882
r108 115 116 0.53136
r109 113 114 0.62445
r110 113 167 0.62445
r111 107 144 0.0151417
r112 107 114 0.624484
r113 106 143 0.231882
r114 105 144 0.231882
r115 105 106 0.53136
r116 103 104 0.62445
r117 103 166 0.62445
r118 97 143 0.0151417
r119 97 104 0.624484
r120 96 142 0.231882
r121 95 143 0.231882
r122 95 96 0.53136
r123 93 94 0.62445
r124 93 165 0.62445
r125 87 142 0.0151417
r126 87 94 0.624484
r127 86 141 0.231882
r128 85 142 0.231882
r129 85 86 0.53136
r130 83 84 0.62445
r131 83 164 0.62445
r132 77 141 0.0151417
r133 77 84 0.624484
r134 76 140 0.231882
r135 75 141 0.231882
r136 75 76 0.53136
r137 73 74 0.62445
r138 73 163 0.62445
r139 67 140 0.0151417
r140 67 74 0.624484
r141 66 139 0.231882
r142 65 140 0.231882
r143 65 66 0.53136
r144 63 64 0.62445
r145 63 162 0.62445
r146 57 139 0.0151417
r147 57 64 0.624484
r148 55 56 1.06272
r149 54 138 0.231882
r150 54 55 1.06272
r151 53 139 0.231882
r152 53 56 1.06272
r153 51 52 0.62445
r154 51 161 0.62445
r155 45 138 0.0151417
r156 45 52 0.624484
r157 44 137 0.231882
r158 43 138 0.231882
r159 43 44 0.53136
r160 41 42 0.62445
r161 41 160 0.62445
r162 35 137 0.0151417
r163 35 42 0.624484
r164 34 136 0.231882
r165 33 137 0.231882
r166 33 34 0.53136
r167 31 32 0.62445
r168 31 159 0.62445
r169 25 136 0.0151417
r170 25 32 0.624484
r171 24 135 0.231882
r172 23 136 0.231882
r173 23 24 0.53136
r174 21 22 0.62445
r175 21 158 0.62445
r176 15 135 0.0151417
r177 15 22 0.624484
r178 13 135 0.231882
r179 13 14 1.19556
r180 11 12 0.368994
r181 10 180 1
r182 10 11 0.368994
r183 8 178 1
r184 8 10 0.17712
r185 6 176 1
r186 6 8 0.17712
r187 3 172 1
r188 3 6 0.17712
r189 1 14 0.311719
r190 1 12 0.369012
.ends

