* File: INVD1.cdl.pex
* Created: Mon Dec 22 20:00:34 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD1%1 5 9 11 15 35 37 44 47 54 58 61 62 63 64
r24 73 76 0.0984
r25 70 73 0.0984
r26 66 70 0.0984
r27 53 54 0.62445
r28 53 62 0.62445
r29 47 58 0.0151417
r30 47 54 0.624484
r31 46 57 0.231882
r32 45 58 0.231882
r33 45 46 0.53136
r34 43 44 0.62445
r35 43 61 0.62445
r36 37 57 0.0151417
r37 37 44 0.624484
r38 35 57 0.231882
r39 35 36 0.92988
r40 33 76 1
r41 31 73 1
r42 31 33 0.2952
r43 29 70 1
r44 29 31 0.2952
r45 26 27 0.9594
r46 25 66 1
r47 25 29 0.2952
r48 25 27 0.9594
r49 23 36 0.260498
r50 23 26 0.9594
r51 15 76 1
r52 15 64 7.17942
r53 13 73 1
r54 13 15 5.2214
r55 11 70 1
r56 11 13 5.2214
r57 9 66 1
r58 9 64 3.47204
r59 9 11 5.2214
r60 6 64 10.4093
r61 5 63 9.91065
r62 5 6 9.64824
r63 1 63 5.31594
r64 1 63 17.1327
.ends

.subckt PM_INVD1%VSS 1 31 57 58 59
r10 68 71 0.126514
r11 65 68 0.126514
r12 61 65 0.126514
r13 55 71 1
r14 53 68 1
r15 53 55 0.2952
r16 51 65 1
r17 51 53 0.2952
r18 48 61 1
r19 48 51 0.2952
r20 46 55 0.2214
r21 44 46 0.260498
r22 44 45 0.8856
r23 40 45 0.327655
r24 40 57 0.474429
r25 31 59 27.195
r26 30 31 27.1947
r27 27 39 0.353334
r28 27 30 27.1947
r29 25 38 5.52744
r30 24 39 6.97267
r31 22 71 1
r32 22 58 15.0708
r33 20 68 1
r34 20 22 8.70233
r35 18 65 1
r36 18 20 8.70233
r37 15 16 23.9314
r38 14 61 1
r39 14 18 8.70233
r40 14 16 23.9314
r41 10 38 1.43649
r42 10 15 23.9314
r43 6 58 3.26338
r44 6 58 13.9123
r45 1 24 29.1963
r46 1 25 15.1856
.ends

.subckt PM_INVD1%VDD 1 9 23 33 34
r11 28 33 6.52456
r12 23 32 2.30802
r13 23 34 26.1059
r14 17 34 3.26338
r15 17 34 29.3704
r16 15 16 14.881
r17 13 14 15.287
r18 11 29 3.89768
r19 11 13 15.287
r20 10 32 4.57327
r21 10 16 14.881
r22 9 29 3.03423
r23 9 28 58.7407
r24 4 33 3.26338
r25 4 33 29.3704
r26 1 15 14.881
r27 1 14 15.2874
.ends

.subckt PM_INVD1%OUT 1 7 21 32 33 34
r14 27 34 6.52456
r15 24 32 6.52456
r16 21 27 19.5802
r17 16 33 2.41925
r18 16 33 29.3704
r19 12 34 3.26338
r20 12 34 29.3704
r21 8 33 2.41925
r22 8 33 29.3704
r23 7 24 19.5802
r24 2 32 3.26338
r25 2 32 29.3704
r26 1 33 10.2662
r27 1 7 17.7034
r28 1 21 17.7034
.ends

.subckt PM_INVD1%IN 13 15 22 27 34 35 37 44 50 51 52 53
r23 61 63 0.17712
r24 59 61 0.17712
r25 53 59 0.008856
r26 53 55 0.168264
r27 43 44 0.62445
r28 43 52 0.62445
r29 37 44 0.624484
r30 36 46 0.231882
r31 35 37 0.252919
r32 35 36 0.53136
r33 33 34 0.62445
r34 33 51 0.62445
r35 27 46 0.0151417
r36 27 34 0.624484
r37 25 26 1.06272
r38 24 45 0.231882
r39 24 25 1.06272
r40 23 46 0.231882
r41 23 26 1.06272
r42 21 22 0.62445
r43 21 50 0.62445
r44 15 45 0.0151417
r45 15 22 0.624484
r46 13 45 0.231882
r47 13 14 0.92988
r48 11 12 0.368994
r49 10 63 1
r50 10 11 0.368994
r51 8 61 1
r52 8 10 0.17712
r53 6 59 1
r54 6 8 0.17712
r55 3 55 1
r56 3 6 0.17712
r57 1 14 0.311719
r58 1 12 0.369012
.ends

